US08278343B2
Preparation 22: 4-(5-Hydroxy-pyridin-2-yl)-benzonitrile
The title compound was prepared according to the method described for Preparation 17 using 2-bromo-5-hydroxypyridine and 4-cyanophenylboronic acid to afford the title compound as a yellow solid (300 mg, 26%)

reactant | 2-bromo-5-hydroxypyridine | BrC1=NC=C(C=C1)O | C5H4BrNO
reactant | 4-cyanophenylboronic acid | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
product | 4-(5-Hydroxy-pyridin-2-yl)-benzonitrile | 300 mg, 26% | OC=1C=CC(=NC1)C1=CC=C(C#N)C=C1 | C12H8N2O
